US03982007
2-(4-bromophenyl)-3-(5-nitro-2-furyl)acrolein-thiosemicarbazone
1.0 g of 2-(4-bromophenyl)-3-(5-nitro-2-furyl) acrolein and 0.31 g of thiosemicarbazide are heated at reflux for 30 minutes in 25 cc of methanol with 0.3 g of glacial acetic acid and 1.0 g of sodium acetate. Upon cooling, the title compound is obtained as yellow brown crystals having a M.P. of 230°-237°.

reactant | 2-(4-bromophenyl)-3-(5-nitro-2-furyl) acrolein | 1.0 g | BrC1=CC=C(C=C1)C(C=O)=CC=1OC(=CC1)[N+](=O)[O-] | C13H8BrNO4
reactant | thiosemicarbazide | 0.31 g | NNC(=S)N | CH5N3S
reactant | acetic acid | 0.3 g | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 1.0 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 25 cc | CO | CH4O
product | 2-(4-bromophenyl)-3-(5-nitro-2-furyl)acrolein-thiosemicarbazone | BrC1=CC=C(C=C1)C(C=NNC(=S)N)=CC=1OC(=CC1)[N+](=O)[O-] | C14H11BrN4O3S
